US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(2-amino-2-oxoethoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate (314)
To a solution of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (47 mg, 0.08 mmol) in anhydrous dimethylformamide (2 mL) was added cesium carbonate (78 mg, 0.24 mmol) and 2-bromoacetamide (22 mg, 0.16 mmol). After 1 h at ambient temperature, the mixture was diluted with ethyl acetate, washed with water (3×), brine, dried (sodium sulfate), and evaporated. The residue was purified by chromatography (silica gel, dichloromethane/methanol, 97:3) to afford the title product as a white solid (45 mg). 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.2 (1H, dd), 1.4 (1H, quintuplet), 1.9-2.0 (1H, m), 2.35 (1H, t), 2.6-2.8 (3H, m), 2.9 (1H, d), 2.95 (1H, dd), 3.25-3.30 (1H, m), 3.45 (1H, br s), 3.5-3.6 (3H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.3 (2H, s), 4.8 (1H, dt), 5.0 (1H, d), 5.5 (1H, d), 6.18 (2H, s), 6.8 (2H, d), 7.0-7.15 (3H, m), 7.22 (1H, s), 7.24 (1H, d), 7.26 (1H, d), 7.32 (1H, s), 7.42 (1H, s); MS: 650 (MH+)

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.08 mmol, 47 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | cesium carbonate | 0.24 mmol, 78 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoacetamide | 0.16 mmol, 22 mg | BrCC(=O)N | C2H4BrNO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(2-amino-2-oxoethoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | 45 mg | NC(COC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC3=C(OCO3)C=C2)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1)=O | C30H39N3O11S
